US04243609
In a manner directly analogous to that described in Example 9, ethyl 3-fluoro-4-aminohydrocinnamate is alkylated with hexadecyl bromide to form ethyl 3-fluoro-4-(hexadecylamino)-hydrocinnamate. Subsequently, in a manner directly analogous to that described in Example 10, ethyl 3-fluoro-4-(hexadecylamino)hydrocinnamate is hydrolyzed to 3-fluoro-4-(hexadecylamino)-hydrocinnamic acid.

reactant | ethyl 3-fluoro-4-aminohydrocinnamate | FC=1C=C(CCC(=O)OCC)C=CC1N | C11H14FNO2
reactant | hexadecyl bromide | C(CCCCCCCCCCCCCCC)Br | C16H33Br
product | ethyl 3-fluoro-4-(hexadecylamino)-hydrocinnamate | FC=1C=C(CCC(=O)OCC)C=CC1NCCCCCCCCCCCCCCCC | C27H46FNO2
